US08278331B2
To a suspension of azidomethyl pivalate (0.075 g, 0.477 mmol), 4-(2-ethynylpyridin-4-yloxy)-2-fluorobenzenamine from Example A21 (0.109 g, 0.477 mmol) in t-butanol (0.6 mL) and water (0.6 mL) was added sodium ascorbate (0.021 g, 0.095 mmol). Copper(II)sulfate in water (0.048 ml, 0.048 mmol) was added to the above suspension and the dark red mixture was stirred for 3 h at RT. It was diluted with water (30 mL) and EtOAc (20 mL), the layers were separated and the aqueous layer was extracted with EtOAc (2×15 mL). The combined organics were washed with brine, dried (Na2SO4) and concentrated to afford (4-(4-(4-amino-3-fluorophenoxy)pyridin-2-yl)-1H-1,2,3-triazol-1-yl)methyl pivalate as a red solid. (0.165 g, 90% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.54 (s, 1H), 8.46 (brs, 1H), 7.60 (s, 1H), 6.98 (d, J=8.8 Hz, 1H), 6.94 (d, J=3.6 Hz, 1H), 6.83-6.81 (m, 2H), 6.42 (s, 2H), 4.78 (s, 2H), 1.17 (s, 9H); MS (ESI) m/z: 386.1 (M+H+).

reactant | azidomethyl pivalate | 0.477 mmol, 0.075 g | C(C(C)(C)C)(=O)OCN=[N+]=[N-] | C6H11N3O2
reactant | 4-(2-ethynylpyridin-4-yloxy)-2-fluorobenzenamine | C(#C)C1=NC=CC(=C1)OC1=CC(=C(C=C1)N)F | C13H9FN2O
reactant | sodium ascorbate | 0.095 mmol, 0.021 g | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | t-butanol | 0.6 mL | C(C)(C)(C)O | C4H10O
solvent | water | 30 mL | O | H2O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | Copper(II)sulfate | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | water | 0.048 mmol, 0.048 ml | O | H2O
solvent | water | 0.6 mL | O | H2O
product | (4-(4-(4-amino-3-fluorophenoxy)pyridin-2-yl)-1H-1,2,3-triazol-1-yl)methyl pivalate | 90% yield | C(C(C)(C)C)(=O)OCN1N=NC(=C1)C1=NC=CC(=C1)OC1=CC(=C(C=C1)N)F | C19H20FN5O3
